US06156772
4-Pyridin-3-yl-benzoic acid methyl ester
To a mixture of 1.18 g 4-iodobenzoic acid methyl ester, 830 mg pyridine-3-boronic acid, and 158 mg bis(triphenylphosphine) palladium(II) chloride was added solvent (18 mL toluene and 5 mL methanol) followed by 4.5 mL of 2M sodium carbonate and the mixture heated to 80° C. on an oil bath. After 16 hours the mixture was cooled to room temperature diluted with ethyl acetate and filtered through diatomaceous earth. The organic portion was washed sequentially with 1.25N sodium hydroxide and brine, dried over magnesium sulfate and concentrated in vacuo. Purification by flash chromatography on silica gel (hexane:ethyl acetate, 80:20; then 70:30; then 60:40) gave the title compound (810 mg).

reactant | 4-iodobenzoic acid methyl ester | 1.18 g | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | pyridine-3-boronic acid | 830 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 4.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) chloride | 158 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 5 mL | CO | CH4O
product | 4-Pyridin-3-yl-benzoic acid methyl ester | 810 mg | COC(C1=CC=C(C=C1)C=1C=NC=CC1)=O | C13H11NO2
